US05312914
(R)-2-mesyloxy-3-methoxycarbonyl-2-penten-4-olide
137.76 g of (R)-2-hydroxy-3-methoxycarbonyl-2-penten-4-olide are dissolved in 660 ml of toluene and at -10° C. 110 g of methanesulphonyl chloride and then, within a period of 1 hour, 97 g of triethylamine, are added. 350 ml of water and 150 ml of saturated sodium chloride solution are added, the toluene product phase is removed and the aqueous phase is re-extracted twice with 250 ml of toluene. The toluene phases are washed with sodium chloride solution and with water and concentrated by evaporation. Orange-red oil, [α]D20 =+10.6° (3% in CHCl3).

reactant | (R)-2-hydroxy-3-methoxycarbonyl-2-penten-4-olide | 137.76 g | OC=1C(=O)O[C@@H](C1C(=O)OC)C | C7H8O5
reactant | methanesulphonyl chloride | 110 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 97 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | toluene | 660 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 350 ml | O | H2O
product | (R)-2-mesyloxy-3-methoxycarbonyl-2-penten-4-olide | S(=O)(=O)(C)OC=1C(=O)O[C@@H](C1C(=O)OC)C | C8H10O7S
